US08258158B2
To a pre-cooled THF solution under an argon atmosphere was added at −5° C. LDA (2 M, in THF/hepatane/ethylbenzene, 17.5 ml) and then dropwise a solution of piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (5 g) in THF, keeping the temperature at about −7° C. The mixture was stirred 2 hours between −10 and −5° C. then treated slowly and dropwise with benzyl chlormethyl ether (5.47 g) at −5° C. The mixture was stirred 1 hour at 0° C. and 48 h at RT. The solvent was evaporated off, the residue partitioned between AcOEt and water. The layers were separated, the organic layer washed with brine, dried over sodium sulphate and concentrated in vacuo. The residue purified by flash chromatography (AcOEt/heptane, gradient from 0 to 5%) to give the desired 4-Benzyloxymethyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (5.79 g) as a light brown oil. MS (ESI): 378.4 (MH+).

reactant | LDA | 2 M, 17.5 ml | [Li+].CC(C)[N-]C(C)C
reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 5 g | C(C)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | benzyl chlormethyl ether | 5.47 g | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | 4-Benzyloxymethyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 5.79 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C21H31NO5
